US07138533B2
7-(5-Chloropentanoyl)-N-ethyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxamide
Ethyl isocyanate (781 μl) was added to a solution of 5-chloro-1-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone (2.3 g) obtained in Reference Example 121 in tetrahydrofuran (30 ml). After stirring at room temperature for 60 minutes, water (50 g) was added, extracted with ethyl acetate, and washed with brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give a colorless solid (2.2 g).

reactant | Ethyl isocyanate | 781 μl | C(C)N=C=O | C3H5NO
reactant | 5-chloro-1-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-pentanone | 2.3 g | ClCCCCC(=O)C1=CC2=C(CCNCC2)C=C1 | C15H20ClNO
reactant | water | 50 g | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-(5-Chloropentanoyl)-N-ethyl-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxamide | 2.2 g | ClCCCCC(=O)C1=CC2=C(CCN(CC2)C(=O)NCC)C=C1 | C18H25ClN2O2
